US05976759
To a solution of 100 g (0.567 mol) of p-tert-butoxystyrene and 3.54 g (0.03 mol) of p-methylstyrene in 300 ml of 1,4-dioxane was added a catalytic amount of 2,2'-azobis(methyl 2-methylpropionate) to carry out reaction in a nitrogen stream at 80° for 6 hours. The reaction solution was cooled and poured into 5,000 ml of a methanol solution to cause crystallization. Precipitated crystals were filtered out, washed with methanol and dried in vacuo to give 92.3 g of poly-(p-tert-butoxystyrene/p-methylstyrene)as white powder. The polymer was found to have p-tert-butoxystyrene unit and p-methylstyrene unit in a molar ratio of ca. 95:5 based on 1H NMR. The weight-average molecular weight (Mw) was determined to be about 20,000 by GPC with polystyrene calibration.

reactant | p-tert-butoxystyrene | 0.567 mol, 100 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | p-methylstyrene | 0.03 mol, 3.54 g | CC1=CC=C(C=C)C=C1 | C9H10
reactant | 2,2'-azobis(methyl 2-methylpropionate) | N(=NC(C(=O)[O-])(CC)C)C(C(=O)[O-])(CC)C
reactant | methanol | 5,000 ml | CO | CH4O
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | p-tert-butoxystyrene p-methylstyrene | C(C)(C)(C)OC1=CC=C(C=C)C=C1.CC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O.C9H10/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-3-9-6-4-8(2)5-7-9/h5-9H,1H2,2-4H3;3-7H,1H2,2H3
